US04053608
Synthesis of 3-(4-n-butylallophanoyl)-2-methyl-5-nitropyridine (No. 157)
A mixture of 0.9 g of 2-methyl-5-nitronicotinamide and 0.9 g of n-butylisocyanate in 40 ml of anhydrous toluene was refluxed for 18 hours. Unreacted nicotinamide (0.2 g) was filtered off and the filtrate was chromatographed over silica gel to give 0.6 g of the desired product. mp 111° - 112° C.

reactant | 2-methyl-5-nitronicotinamide | 0.9 g | CC1=C(C(=O)N)C=C(C=N1)[N+](=O)[O-] | C7H7N3O3
reactant | n-butylisocyanate | 0.9 g | C(CCC)N=C=O | C5H9NO
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-n-butylallophanoyl)-2-methyl-5-nitropyridine | 0.6 g | C(CCC)NC(NC(=O)C=1C(=NC=C(C1)[N+](=O)[O-])C)=O | C12H16N4O4
